US04542145
N-[4-(1H-1,2,4-Triazol-1-yl)butyl]-2-furancarboxamide
A mixture of about 2.13 g of 1H-1,2,4-triazole-1-butanamine dihydrochloride, about 50 ml of methylene chloride, about 30 ml of 1N sodium hydroxide and about 1.47 ml of furoyl chloride was stirred for 16 hours and then treated with about 5 ml of 1N sodium hydroxide and about 50 ml of methylene chloride. The layers were separated and the organic layer was washed with water, dried and concentrated, giving the desired product, mp 78°-79° C.

reactant | 1H-1,2,4-triazole-1-butanamine dihydrochloride | about 2.13 g | Cl.Cl.N1(N=CN=C1)CCCCN
reactant | sodium hydroxide | 1N, about 30 ml | [OH-].[Na+]
reactant | furoyl chloride | about 1.47 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | sodium hydroxide | 1N, about 5 ml | [OH-].[Na+]
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(1H-1,2,4-Triazol-1-yl)butyl]-2-furancarboxamide | N1(N=CN=C1)CCCCNC(=O)C=1OC=CC1 | C11H14N4O2
